US06194409B1
63d. 7-Methoxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To a stirred mixture of 2.5 g of 7-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester and 2.8 g of powdered potassium carbonate in 25 mL of dry N,N-dimethylformamide was added methyl iodide (0.94 mL) at 5° C. Stirring was continued for 24 hours at room temperature. Water was added and the mixture was extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried (sodium sulfate) and the solvent was removed in vacuo. The crude product (2.7 g; oil) was used in the next step without further purification. EI-MS: 263 (M+).

reactant | 7-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 2.5 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)O | C14H19NO3
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.94 mL | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 7-Methoxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OC | C15H21NO3
